US04329347
5-(3-tert. Butylmercapto-2-hydroxy-propoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 133 from 5-(2,3-epoxy-propoxy)-3,4-dihydro-carbostyril (m.p. 171°-173° C.) and tert. butyl mercaptan.

reactant | 5-(2,3-epoxy-propoxy)-3,4-dihydro-carbostyril | O1C(COC2=C3CCC(NC3=CC=C2)=O)C1 | C12H13NO3
reactant | tert. butyl mercaptan | C(C)(C)(C)S | C4H10S
product | 5-(3-tert. Butylmercapto-2-hydroxy-propoxy)-3,4-dihydro-carbostyril | C(C)(C)(C)SCC(COC1=C2CCC(NC2=CC=C1)=O)O | C16H23NO3S
